US04634710
A solution of 24 g of 2-chloromethyl-3-methylpyridine in 200 ml of methylene chloride was treated while cooling with ice with a solution of 44 g of m-chloroperbenzoic acid in 200 ml of methylene chloride. The reaction mixture was heated under reflux for 2 hours and concentrated in a rotary evaporator. The residue was chromatographed on silica gel with ethyl acetate/methylene chloride (3:1) as the elution agent, the medium pressure flash chromatography method being used and the pressure being produced with nitrogen gas. The 2-chloromethyl-3-methyl-pyridine 1-oxide obtained was processed directly.

reactant | 2-chloromethyl-3-methylpyridine | 24 g | ClCC1=NC=CC=C1C | C7H8ClN
reactant | m-chloroperbenzoic acid | 44 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-3-methyl-pyridine 1-oxide | ClCC1=[N+](C=CC=C1C)[O-] | C7H8ClNO
